US05968944
[1-(4-Bromo-2,6-dimethylphenyl)-3,5-diethyl-1H-pyrazol-4-yl]-methanol
To a dry ice/acetone bath-chilled solution of 1-(4-bromo-2,6-dimethylphenyl)-3,5-diethyl-1H-pyrazole-4-carboxylic acid methyl ester (1.1 g, 3.1 mmol) in anhydrous tetrahydrofuran (8 ml), diisobutylaluminum hydride (1.0 M in toluene; 10 ml, 10 mmol) was added dropwise. After 15 minutes, the reaction mixture was warmed to 0°-5° C. and stirred at that temperature for 2.5 hours. The reaction was then quenched by addition of 2 ml of water, and the organic solvent was removed in vacuo. Extraction of the residual mixture with ethyl acetate, anhydrous sodium sulfate drying of the resulting extract, and its concentration in vacuo afforded the title compound as a yellow oil (0.77 g).

reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 1-(4-bromo-2,6-dimethylphenyl)-3,5-diethyl-1H-pyrazole-4-carboxylic acid methyl ester | 3.1 mmol, 1.1 g | COC(=O)C=1C(=NN(C1CC)C1=C(C=C(C=C1C)Br)C)CC | C17H21BrN2O2
reactant | diisobutylaluminum hydride | 10 mmol, 1.0 M, 10 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | [1-(4-Bromo-2,6-dimethylphenyl)-3,5-diethyl-1H-pyrazol-4-yl]-methanol | 0.77 g | BrC1=CC(=C(C(=C1)C)N1N=C(C(=C1CC)CO)CC)C | C16H21BrN2O
